US04511655
Into the same flask as used in Example 1, dl-3-hydroxy-2-n-pentyl-3-methyl-4-cyclopentenone (18.2 g), triethylamine (0.1 g) and acetic anhydride (36 g) were charged, and the resultant mixture was stirred at 60°-80° C. for 3 hours. After completion of the reaction, the reaction mixture was subjected to the same work-up as in Example 11, followed by purification to give 21.9 g of dl-3-acetoxy-2-n-pentyl-3-methyl-4-cyclopentenone. Yield, 98%. B.P., 100°-110° C./0.1-0.3 mmHg.

reactant | 3-hydroxy-2-n-pentyl-3-methyl-4-cyclopentenone | 18.2 g | OC1(C(C(C=C1)=O)CCCCC)C | C11H18O2
reactant | acetic anhydride | 36 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | triethylamine | 0.1 g | C(C)N(CC)CC | C6H15N
product | 3-acetoxy-2-n-pentyl-3-methyl-4-cyclopentenone | C(C)(=O)OC1(C(C(C=C1)=O)CCCCC)C | C13H20O3
